US04916152
To a solution of (2S,4R)-1-t-butoxycarbonyl-4-(4-chlorophenylsulfonylamino)-2-methoxycarbonylpyrrolidine (9.01 g) in toluene (70 ml) was added dropwise 1.5 molar solution of diisobutylaluminum hydride (61.2 m mol) in tetrahydrofuran (40.8 ml) at -78° C. After the mixture was stirred at -78° C. for 1.5 hours, saturated aqueous potassium sodium tartrate was added to the reaction mixture and the mixture was filtered through Celite. The solid was washed with ethyl acetate and the combined organic solution was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was chromatographed on a silica gel column with a mixture of ethyl acetate and n-hexane (1:2-2:1) as an eluent to give (2S,4R)-1-t-butoxycarbonyl-4-(4-chlorophenylsulfonylamino)-2-formylpyrrolidine (5.51 g) as pale yellow crystal.

reactant | (2S,4R)-1-t-butoxycarbonyl-4-(4-chlorophenylsulfonylamino)-2-methoxycarbonylpyrrolidine | 9.01 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)C(=O)OC | C17H23ClN2O6S
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | potassium sodium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 40.8 ml | O1CCCC1 | C4H8O
product | (2S,4R)-1-t-butoxycarbonyl-4-(4-chlorophenylsulfonylamino)-2-formylpyrrolidine | 5.51 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)C=O | C16H21ClN2O5S
